US04694008
2-[3-[3-(Piperidinomethyl)phenoxy]propyl]-5-hydroxypyrimidin -4-one
2-[3-[3-(Piperidinomethyl)phenoxy]propyl]-5-benzyloxypyrimidin-4-one (0.68 g) was stirred under reduced pressure and taken to pH 8 with hours in lN hydrochloric acid (20 ml). The mixture was concentrated under reduced pressure and taken to pH 8 with aqueous sodium bicarbonate. This mixture was extracted with n-butanol (3×20 ml); these extracts were combined, washed with water (2'5 ml), dried (MgSO4) and evaporated under reduced pressure to give the title compound. This was dissolved in methanol containing ethanolic HCl, excess solvent was evaporated under reduced pressure and the residue crystallised from isopropanol-acetone to give 2-[3-[3-(piperidinomethyl)phenoxy]propyl]-5-hydroxypyrimidin -4-one dihydrochloride (0.24 g), m.p. 192°-4° C.

reactant | 2-[3-[3-(Piperidinomethyl)phenoxy]propyl]-5-benzyloxypyrimidin-4-one | 0.68 g | N1(CCCCC1)CC=1C=C(OCCCC2=NC=C(C(N2)=O)OCC2=CC=CC=C2)C=CC1 | C26H31N3O3
solvent | hydrochloric acid | 20 ml | Cl | ClH
product | 2-[3-[3-(Piperidinomethyl)phenoxy]propyl]-5-hydroxypyrimidin -4-one | N1(CCCCC1)CC=1C=C(OCCCC2=NC=C(C(N2)=O)O)C=CC1 | C19H25N3O3
